US07838188B2
(2) Synthesis of p-diethylaminophenethyl acrylate
In a three-aperture flask, 5.43 g (28.1 mmol) of p-diethylaminophenethyl alcohol, 6.26 g (61.8 mmol) of triethylamine, and 30 mL of dehydrated tetrahydrofuran were poured, and the mixture was stirred under an argon atmosphere and an ice-cooling condition. Then, 5.09 g (56.2 mmol) of chloride acrylate was delivered by drops into the reaction solution for 30 minutes. Upon completion of the dripping, the reaction solution was further stirred for 5 hours. The reaction solution was poured to 100 mL of water and then an extract was obtained therefrom by using toluene, followed by washing with water three times. The toluene solution was dried with anhydrous magnesium sulfate, and then the solvent was distilled away to purify the toluene solution by silica gel chromatography using a mixture solvent of hexane/ethyl acetate (9/1) as an eluent to thereby synthesize 3.17 g (yield: 46% by mass) of p-diethylaminophenethyl acrylate of the exemplified compound No. 21 represented by the following structural formula.

reactant | p-diethylaminophenethyl alcohol | 28.1 mmol, 5.43 g | C(C)N(C1=CC=C(CCO)C=C1)CC | C12H19NO
reactant | triethylamine | 61.8 mmol, 6.26 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | chloride acrylate | 56.2 mmol, 5.09 g | C(C=C)(=O)[O-].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | p-diethylaminophenethyl acrylate | C(C=C)(=O)OCCC1=CC=C(C=C1)N(CC)CC | C15H21NO2
